* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  2 20:46:50 2023
* Design path:          /home/vlsi/Desktop/GROUP__1_PROJECT/lib.defs
* Library:              GROUP__1_PROJECT
* Cell:                 OneBitFA
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt XOR A B Out Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: XOR
* View name: schematic
* PORT=Out TYPE=Out
* PORT=A TYPE=In
* PORT=Gnd TYPE=Other
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In

MMn1 Out A N_1 Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=2500 $y=2000 $w=400 $h=600
MMn2 Out N_1 A Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=2100 $w=600 $h=400 $r=270
MMn3 N_1 B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=6400 $y=3600 $w=400 $h=600
MMp1 Out A B Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=2500 $y=3000 $w=400 $h=600
MMp2 Out B A Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3500 $w=600 $h=400 $r=90
MMp3 N_1 B Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=6400 $y=4600 $w=400 $h=600
.ends

.subckt NAND A B Out Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: NAND
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In
* PORT=A TYPE=In
* PORT=Out TYPE=Out
* PORT=Gnd TYPE=Other

MMn1 Out A N_1 Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3600 $y=3700 $w=400 $h=600
MMn2 N_1 B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3600 $y=3000 $w=400 $h=600
MMp1 Out B Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4100 $y=5000 $w=400 $h=600
MMp2 Out A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3100 $y=5000 $w=400 $h=600
.ends

.subckt INVERTER In Out Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: INVERTER
* View name: schematic
* PORT=In TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out

MMn2 Out In Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=1900 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=3900 $w=400 $h=600
.ends

.subckt NOR A B Out Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: NOR
* View name: schematic
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=B TYPE=In
* PORT=Gnd TYPE=Other

MMn1 Out B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4700 $y=1800 $w=400 $h=600
MMn2 Out A Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=1800 $w=400 $h=600
MMp1 Out B N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4100 $y=3600 $w=400 $h=600
MMp2 N_1 A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4100 $y=4400 $w=400 $h=600
.ends

.subckt OneBitFA A B CIN COUT S Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: OneBitFA
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=CIN TYPE=In
* PORT=COUT TYPE=Out
* PORT=B TYPE=In
* PORT=S TYPE=Out
* PORT=A TYPE=In

XINVERTER_1 N_2 N_5 Gnd Vdd INVERTER $ $x=3800 $y=2700 $w=1800 $h=1000
XINVERTER_2 N_3 N_6 Gnd Vdd INVERTER $ $x=3800 $y=1200 $w=1800 $h=1000
XINVERTER_3 N_4 COUT Gnd Vdd INVERTER $ $x=8400 $y=2100 $w=1800 $h=1000
XNAND_1 N_1 CIN N_2 Gnd Vdd NAND $ $x=1600 $y=2800 $w=1800 $h=600
XNAND_2 A B N_3 Gnd Vdd NAND $ $x=1600 $y=1300 $w=1800 $h=600
XNOR_1 N_5 N_6 N_4 Gnd Vdd NOR $ $x=6300 $y=2100 $w=1800 $h=1000
XXOR_1 A B N_1 Gnd Vdd XOR $ $x=3900 $y=5300 $w=1800 $h=1000
XXOR_2 N_1 CIN S Gnd Vdd XOR $ $x=6000 $y=4500 $w=1800 $h=1000
.ends



